US05750699
To a mixture of 3-bromo-8-(2-chloro-6-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine (300 mg), nickel(II) chloride hexahydrate (360 mg) and methanol (9 ml) was added sodium borohydride (114 mg) portionwise under an ice-water bath cooling for 20 minutes. After stirring for 30 minutes, the mixture was concentrated in vacuo and diluted with water. The pH value of the mixture was adjusted to 3 and the separated crystals were collected by filtration. The crystals were dissolved in dichloromethane, and the solution was washed with saturated aqueous solution of sodium hydrogencarbonate, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (3% solution of methanol in dichloromethane) and preparative thin-layer chromatography (3% solution of methanol in dichloromethane) followed by crystallization from diethyl ether to give 8-(2-amino-6-chlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine (40 mg).

reactant | 3-bromo-8-(2-chloro-6-nitrobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 300 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2[N+](=O)[O-])Cl)C | C15H11BrClN3O3
reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
catalyst | nickel(II) chloride hexahydrate | 360 mg | O.O.O.O.O.O.[Ni](Cl)Cl
solvent | methanol | 9 ml | CO | CH4O
product | 8-(2-amino-6-chlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine | 40 mg | NC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC=C1)Cl | C15H13BrClN3O
